US08058269B2
Preparation of rac-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-acetic acid ethyl ester
At room temperature, 3-Bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (4.57 g, 12.3 mmol) and Isopropylamino-acetic acid ethyl ester (2.15 g, 14.8 mmol), DIPEA (2.14 ml) were mixed in about 40 ml dichloromethane. After stirred for about 3 h, the solution was concentrated and the crude product was purified by chromatography to obtain 4.7 g solid rac-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-acetic acid ethyl ester. MS: 435 (M+H)+.

reactant | 3-Bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 12.3 mmol, 4.57 g | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
reactant | Isopropylamino-acetic acid ethyl ester | 14.8 mmol, 2.15 g | C(C)OC(CNC(C)C)=O | C7H15NO2
reactant | DIPEA | 2.14 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | about 40 ml | ClCCl | CH2Cl2
product | rac-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-acetic acid ethyl ester | 4.7 g | C(C)OC(CN(C(C)C)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl)=O | C22H24Cl2N2O3
